US08334287B2
b) 5-(4-Iodo-2,5-dimethyl-imidazol-1-yl)-2-(2-methoxy-ethyl)-2H-pyridazin-3-one
The title compound, light yellow waxy solid, MS: m/e=375.2 (M+H+), was prepared in accordance with the general method of example 23b from 5-Chloro-2-(2-methoxy-ethyl)-2H-pyridazin-3-one and 4-iodo-2,5-dimethyl-1H-imidazole.

reactant | 5-Chloro-2-(2-methoxy-ethyl)-2H-pyridazin-3-one | ClC1=CC(N(N=C1)CCOC)=O | C7H9ClN2O2
reactant | 4-iodo-2,5-dimethyl-1H-imidazole | IC=1N=C(NC1C)C | C5H7IN2
product | 5-(4-Iodo-2,5-dimethyl-imidazol-1-yl)-2-(2-methoxy-ethyl)-2H-pyridazin-3-one | IC=1N=C(N(C1C)C1=CC(N(N=C1)CCOC)=O)C | C12H15IN4O2
